US05175166
1,4,5,6-Tetrahydropyrimidine-5-carboxylic Acid Hydrochloride
Pyrimidine-5-carboxylic acid (5.0 g, 40 mmol) was suspended in a mixture of 150 ml water and concentrated hydrochloric acid (4.0 g, 40.5 mmol). The mixture was hydrogenated at 26 psig over 1.0 g Pd-on-carbon 10% in a Parr hydrogenator for 3 h. The suspension was filtered and the filter rinsed twice with hot water (20 ml). The filtrate was evaporated in vacuo to give 6.11 g yellow oil (92%). The oil was crystallized from anhydrous methanol/tetrahydrofuran (THF) to give 5.77 g (87%) white crystals in two crops. 300 MHz nmr indicated product.

reactant | Pyrimidine-5-carboxylic acid | 40 mmol, 5.0 g | N1=CN=CC(=C1)C(=O)O | C5H4N2O2
reactant | hydrochloric acid | 40.5 mmol, 4.0 g | Cl | ClH
solvent | water | 150 ml | O | H2O
product | 1,4,5,6-Tetrahydropyrimidine-5-carboxylic Acid Hydrochloride | 6.11 g, 92% | Cl.N1C=NCC(C1)C(=O)O | InChI=1S/C5H8N2O2.ClH/c8-5(9)4-1-6-3-7-2-4;/h3-4H,1-2H2,(H,6,7)(H,8,9);1H
